US04992090
3.3 g of potassium tert.-butanolate are added to a mixture of 6.2 g of N-cyano-N'-(5,6-dihydro-5,5-dimethyl-4H-cyclopenta[b]thiophen-4-yl)-formamidine and 5 ml of dimethyl sulfoxide. After the mixture has been stirred for 15 hours at room temperature, 3.1 ml of bromoacetic acid methyl ester are added dropwise thereto. After 2 hours, ice-water is added to the reaction mixture. Extraction with ether, drying of the organic phase with sodium sulfate and evaporation of the solvent yield 8.4 g of N-cyano-N'-(5,6-dihydro-5,5-dimethyl-4H-cyclopenta[b]thiophen-4-yl)-N'-methoxycarbonylmethylformamidine in the form of a yellowish-brown oil. The oil is placed in 8 ml of methanol and, after the addition of 2.6 ml of 30% methanolic sodium methanolate solution, is heated at boiling for 16 hours. After cooling, the reaction solution is poured onto an ice-water/ether mixture. The organic phase is separated off, extracted with water and dried over sodium sulfate. Filtration and evaporation yield 5.1 g of brown crystals which are purified by chromatography on silica gel (eluant: ethyl acetate/hexane 1:1). 3.7 g of 4-amino-1-(5,6-dihydro-5,5-dimethyl-4H-cyclopenta[b]thiophen-4-yl)-5-imidazolecarboxylic acid methyl ester are obtained in the form of beige crystals having a melting point of 161°-162° C.

reactant | potassium tert.-butanolate | 3.3 g | C(C)(C)(C)[O-].[K+]
reactant | N-cyano-N'-(5,6-dihydro-5,5-dimethyl-4H-cyclopenta[b]thiophen-4-yl)-formamidine | 6.2 g | C(#N)NC=NC1C(CC=2SC=CC21)(C)C | C11H13N3S
reactant | bromoacetic acid methyl ester | 3.1 ml | COC(CBr)=O | C3H5BrO2
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 4-amino-1-(5,6-dihydro-5,5-dimethyl-4H-cyclopenta[b]thiophen-4-yl)-5-imidazolecarboxylic acid methyl ester | 3.7 g | COC(=O)C1=C(N=CN1C1C(CC=2SC=CC21)(C)C)N | C14H17N3O2S
